US08957078B2
To a mixture of benzyl N-(2-methyl-3-phenyl-imidazol-4-yl)carbamate (510 mg, 1.659 mmol) and Pd on C, wet, Degussa (176.6 mg, 0.1659 mmol) was added methanol (10 mL). The reaction was hydrogenated (balloon pressure) for 2 h before the catalyst was filtered off and the filtrate concentrated in vacuo yielding 2-methyl-1-phenyl-1H-imidazol-5-amine as a yellow oil that is immediately used in next step without further purification. MS (ES+) 174.4.

reactant | benzyl N-(2-methyl-3-phenyl-imidazol-4-yl)carbamate | 1.659 mmol, 510 mg | CC1=NC=C(N1C1=CC=CC=C1)NC(OCC1=CC=CC=C1)=O | C18H17N3O2
catalyst | Pd | [Pd] | Pd
solvent | methanol | 10 mL | CO | CH4O
product | 2-methyl-1-phenyl-1H-imidazol-5-amine | CC=1N(C(=CN1)N)C1=CC=CC=C1 | C10H11N3
